US05426201
50 mmol (5.1 ml) of benzaldehyde are added at -78° C. to the manganous enolate of diethyl ketone, prepared by the procedure described above. After stirring for 10 seconds at -78° C., the reaction medium is hydroIyzed by the dropwise addition of a saturated solution of (NH4)2SO4. After decantation, filtration on hyflo-supercel and evaporation of the solvents under vacuum, 5-phenyl-5-hydroxy-4-methylpentan-3-one is isolated by low pressure liquid chromatography on 15 μm silica gel using cyclohexane/ethyl acetate (90/10) as the eluent. Yield=72%. Erythro/threo=61/39.

reactant | benzaldehyde | 50 mmol, 5.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | diethyl ketone | C(C)C(=O)CC | C5H10O
product | 5-phenyl-5-hydroxy-4-methylpentan-3-one | Yield=72% | C1(=CC=CC=C1)C(C(C(CC)=O)C)O | C12H16O2
